US05659093
A method of producing 1,1,1,3,3-pentafluoropropane which comprises reacting 1,1,1,2,2,3,3-heptachloropropane with an alkali metal hydroxide in the presence of a phase transfer catalyst to form 1,1,1,2,3,3-hexachloropropene; continuously reacting, at a constant pressure and in the liquid phase, 1,1,1,2,3,3-hexachloropropene with excess hydrogen fluoride in the presence of at least one of an antimony trihalogenide and an antimony pentahologenide while selectively removing 1,1,1,3,3-pentafluoro-2,3-dichloropropane as it is formed; and reacting gaseous 1,1,1,3,3-pentafluoro-2,3-dichloropropane with hydrogen in the presence of a noble metal catalyst.

reactant | 1,1,1,3,3-pentafluoropropane | FC(CC(F)F)(F)F | C3H3F5
reactant | 1,1,1,2,2,3,3-heptachloropropane | ClC(C(C(Cl)Cl)(Cl)Cl)(Cl)Cl | C3HCl7
product | 1,1,1,2,3,3-hexachloropropene | ClC(C(=C(Cl)Cl)Cl)(Cl)Cl | C3Cl6
